US05248672
2-Amino-5,6-dichlorobenzimidazole (3 g, 16 mmole) was suspended in 150 ml of water and brought into solution with 2 ml of HBr. Sodium nitrite (3.3 g, 55 mmole) was then added and the mixture was stirred at room temperature for 1 hr. Excess CuBr2 was then added and the mixture was heated on a steam bath for 1 hr. The aqueous solution was extracted with ethyl acetate (3×100 ml), dried with MgSO4, concentrated, and crystallized from ethyl ether to give 1.13 g (26%) of 2-bromo-5,6-dichlorobenzimidazole. 1H NMR (DMSO-d6) δ7.81 ppm (s, 2H), 13.62 (s, 1H). GC/MS: m/e 266, 185, 158, 150, 133, 124, 107, 97, 88, 73, 62, 52, 37.

reactant | 2-Amino-5,6-dichlorobenzimidazole | 16 mmole, 3 g | NC=1NC2=C(N1)C=C(C(=C2)Cl)Cl | C7H5Cl2N3
reactant | HBr | 2 ml | Br | BrH
reactant | Sodium nitrite | 55 mmole, 3.3 g | N(=O)[O-].[Na+]
solvent | water | 150 ml | O | H2O
product | 2-bromo-5,6-dichlorobenzimidazole | 1.13 g, 26% | BrC=1NC2=C(N1)C=C(C(=C2)Cl)Cl | C7H3BrCl2N2
